### PR TITLE
Refill spec cleanup

### PR DESCRIPTION
**Pull request by mktnk3**
This PR contains several lines of cleanups and improvements that I hope will help with the upcoming refill related proofs. The brief descriptions of the changes are as follows:

- more systematic use of updateSchedContext and its derivatives, mainly in refill related functions
- abstract spec cleanup to go along with the above, with some rewrite rules to take advantage of existing proofs
- more streamlined approach for indexing haskell scRefills (`updateAt`)
- rewrite rules for simplifying projections in the abstract side statements
- projection style wp rules for `getSchedContext`, `updateSchedContext` and others
- rewrite rules for `updateSchedContext`, etc., for managing some complex corres proofs
- rewrite some refill related corres in a more modular style

There are some smaller lemmas that can be moved to KHeap_R or StateRelation.
I think the “projection” rewrites block can stay in Schedule_R where it currently sits, for the time being, unless we are going to them in the earlier theories.

### CODE REVIEW

**Comment by mktnk3** [comment]
Seeing that this work has grown quite big in the end, I will try to split it up into a few smaller PRs.

**Comment by mktnk3** [comment]
Please wait to review this one for the time being, while I clean this up after adding `valid_refills’`. #295 is ready for review and contains various bits that are used in this PR.

**Comment by mktnk3** [comment]
This PR is now ready for review. The changes included here are mainly:

- use `update_sched_context`/`updateSchedContext` more systematically in various functions for both the abstract and design specficiations.

- proof updates for these spec changes
    - for AInvs: the proofs are updated using some rewrite rules so that the existing proofs are mostly preserved where possible
    - for Refine: some (big) corres rules are rewritten often using `updateSchedContext_corres` in #295. They are often now more concise and modular.
  
 - Refine proof updates shows some use cases of`opt_pred` as well as some projection rewrites for the abstract side. Also `updateSchedContext_decompose` and other rewrites.

**Comment by mktnk3** [comment]
The commit to rename `opt_map_left_Some` to `opt_map_red` comes after this PR. So, here you still see the old name.

File: proof/refine/ARM/Schedule_R.thy [hunk 1]
```diff
@@ -10,6 +10,100 @@ begin
...
+lemma state_relation_sc_relation':
+  "\<lbrakk>(s, s') \<in> state_relation; sc_at ptr s; sc_at' ptr s'\<rbrakk> \<Longrightarrow>
+   sc_relation (the ((scs_of2 s) ptr)) (objBits (the (scs_of' s' ptr)) - minSchedContextBits) (the ((scs_of' s') ptr))"
+  supply projection_rewrites[simp]
+  apply (clarsimp simp: obj_at_simps is_sc_obj)
+  apply (drule (1) pspace_relation_absD[OF _ state_relation_pspace_relation, rotated])
+  by (clarsimp simp: sc_relation_def scBits_simps opt_map_left_Some)
+
+(* FIXME RT: copied from Reply_R; move both to StateRelation.thy *)
+lemma sc_replies_relation_prevs_list':
```
Comment (mktnk3) [inline proof/refine/ARM/Schedule_R.thy:90]: I should be able to remove this.

File: proof/refine/ARM/SchedContextInv_R.thy [hunk 2]
```diff
@@ -368,174 +368,139 @@ lemma invoke_sched_context_corres:
...
               (is_round_robin sc_ptr) (isRoundRobin sc_ptr)"
-  apply (rule corres_cross[where Q' = "sc_at' sc_ptr", OF sc_at'_cross_rel], fastforce)
   apply (clarsimp simp: is_round_robin_def isRoundRobin_def)
   apply (corressimp corres: get_sc_corres
                       simp: sc_relation_def)
   done
 
+lemma valid_sc_size_sc_relation:
+  "\<lbrakk>valid_sched_context_size n; sc_relation sc n sc'\<rbrakk> \<Longrightarrow> n = objBits sc' - minSchedContextBits"
+  by (clarsimp simp: sc_relation_def objBits_simps valid_sched_context_size_def scBits_simps)
```
Comment (mktnk3) [inline proof/refine/ARM/SchedContextInv_R.thy:385]: This is a duplicate. Remove.

File: proof/refine/ARM/SchedContextInv_R.thy [hunk 3]
```diff
@@ -368,174 +368,139 @@ lemma invoke_sched_context_corres:
...
+  by (clarsimp simp: updateAt_def)
+
+lemma valid_obj'_scPeriod_update[simp]:
+  "valid_obj' (KOSchedContext (scPeriod_update (\<lambda>_. period) sc')) = valid_obj' (KOSchedContext sc')"
+  by (fastforce simp: valid_obj'_def valid_sched_context'_def valid_sched_context_size'_def objBits_simps)
+
+(* projection *)
+
+(* it would be good to rewrite all getting wp rules in this form *)
+lemma getSchedContext_wp':
```
Comment (mktnk3) [inline proof/refine/ARM/SchedContextInv_R.thy:415]: Maybe. The standard style is to combine the return value `rv` with `ko_at’`, via forall. Not quite sure if one is always better than the other.

File: proof/refine/ARM/Ipc_R.thy [hunk 4]
```diff
@@ -3024,12 +3036,12 @@ lemma refillUnblockCheck_corres:
...
   "\<lbrace>valid_objs' and active_sc_at' scPtr\<rbrace> updateRefillHd scPtr f \<lbrace>\<lambda>_. valid_objs'\<rbrace>"
-  apply (clarsimp simp: updateRefillHd_def2 updateSchedContext_def)
-  apply (wpsimp wp: )
+  apply (clarsimp simp: updateRefillHd_def updateSchedContext_def)
+  apply wpsimp
   apply (frule (1) sc_ko_at_valid_objs_valid_sc')
   apply (clarsimp simp: valid_sched_context'_def active_sc_at'_def obj_at'_real_def ko_wp_at'_def
                         valid_sched_context_size'_def objBits_def objBitsKO_def projectKO_sc
-                        length_replaceAt)
+                        length_updateAt)
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:3044]: Remove this.

File: proof/refine/ARM/SchedContextInv_R.thy (hunk 3 above)
Comment (lsf37) [reply proof/refine/ARM/SchedContextInv_R.thy:415]: I'm not really sure either. `the` is dangerous, because it can escape the `sc_at'` and you can then go hunting for a long time for the thing that justified using `the` in the first place. The quantifier in `ko_at'` binds it to the justification and is usually nicer once you are within a pure HOL formula. But of course quantifiers are annoying in `wp`.

**Review by lsf37 — APPROVED** [review]

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 5]
```diff
@@ -203,20 +201,16 @@ This module uses the C preprocessor to select a target architecture.
...
 > refillAddTail :: PPtr SchedContext -> Refill -> Kernel ()
 > refillAddTail scPtr refill = do
 >     sc <- getSchedContext scPtr
->     sz <- getRefillSize scPtr
->     assert (sz < scRefillMax sc) "cannot add beyond queue size"
->     newTail <- getRefillNext scPtr (refillTailIndex sc)
->     refills <- return $ replaceAt newTail (scRefills sc) refill
->     setSchedContext scPtr (sc { scRefills = refills, scRefillCount = sz + 1 })
+>     assert (scRefillCount sc < scRefillMax sc) "cannot add beyond queue size"
+>     newTail <- return $ refillNextIndex (refillTailIndex sc) sc
```
Comment (corlewis) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs:212]: I think that this now isn't used
```suggestion
```

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 6]
```diff
@@ -253,20 +241,12 @@ This module uses the C preprocessor to select a target architecture.
...
->     sc <- getSchedContext scPtr
->     setSchedContext scPtr (sc { scPeriod = newPeriod })
->     sc <- getSchedContext scPtr
->     setSchedContext scPtr (sc { scBudget = newBudget })
+>     updateSchedContext scPtr $ \sc -> sc { scRefills = replaceAt 0 (scRefills sc) (refillHd sc) }
+>     updateSchedContext scPtr (\sc -> sc { scRefillHead = 0 })
+>     updateSchedContext scPtr (\sc -> sc { scRefillCount = 1 })
+>     updateSchedContext scPtr (\sc -> sc { scRefillMax = newMaxRefills })
+>     updateSchedContext scPtr (\sc -> sc { scPeriod = newPeriod })
+>     updateSchedContext scPtr (\sc -> sc { scBudget = newBudget })
```
Comment (corlewis) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs:249]: This is so much nicer!

**Review by corlewis — COMMENTED** [review]
I won't get to the rest of this until tomorrow, but here's some comments on the spec changes.

File: spec/haskell/src/SEL4/Object/TCB.lhs [hunk 7]
```diff
@@ -1003,6 +1003,15 @@ On some architectures, the thread context may include registers that may be modi
 >           then lst
 >           else x ++ [v] ++ y
 
+> updateAt :: Int -> [a] -> (a -> a) -> [a]
+> updateAt i lst f =
+>     let x = take i lst;
+>         u = lst !! i;
+>         y = drop (i + 1) lst
+>     in if (null lst || length lst <= i)
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/TCB.lhs:1011]: `i` will be `nat` in Isabelle. So, a negative check will be redundant after translation. So, my thinking is that we can leave it as is. As far as Haskell is concerned, the `!!` operator will throw an exception if `i` is negative.

[the remark this answers is not in the document]
Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/TCB.lhs:1011]: Or should we make sure that Haskell returns something even if `i` is negative? If yes, that will also apply to `replaceAt`.

File: spec/haskell/src/SEL4/Object/TCB.lhs [hunk 8]
```diff
@@ -1003,6 +1003,15 @@ On some architectures, the thread context may include registers that may be modi
 >           then lst
 >           else x ++ [v] ++ y
 
+> updateAt :: Int -> [a] -> (a -> a) -> [a]
+> updateAt i lst f =
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/TCB.lhs:1007]: I think I’d prefer to avoid naming a variable the same as a type constructor (in Isabelle). Maybe we can fall back to the old usual `ls`.

File: spec/abstract/SchedContext_A.thy [hunk 9]
```diff
@@ -486,8 +470,8 @@ definition
   sched_context_zero_refill_max :: "obj_ref \<Rightarrow> (unit, 'z::state_ext) s_monad"
 where
   "sched_context_zero_refill_max sc_ptr = do
-     set_sc_obj_ref sc_refill_max_update sc_ptr 0;
-     set_refills sc_ptr []
+     update_sched_context sc_ptr (sc_refills_update (\<lambda>_. []));
+     update_sched_context sc_ptr (sc_refill_max_update (\<lambda>_. 0))
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply spec/abstract/SchedContext_A.thy:474]: I don’t quite remember specifically, but I think the point was not to beak `valid_refills` in these steps. So, `length (sc_refills sc) <= sc_refill_max sc” still holds.

File: spec/abstract/SchedContext_A.thy [hunk 10]
```diff
@@ -320,14 +308,12 @@ where
...
        sc \<leftarrow> get_sched_context sc_ptr;
        period \<leftarrow> return (sc_period sc);
-       used \<leftarrow> return \<lparr>r_time = r_time (hd refills) + period, r_amount = usage'\<rparr>;
-       adjusted_hd \<leftarrow> return \<lparr>r_time = r_time (hd refills) + usage',
-                              r_amount = r_amount (hd refills) - usage'\<rparr>;
-       full \<leftarrow> refill_full sc_ptr;
-       set_refills sc_ptr $ schedule_used full (adjusted_hd # (tl refills)) used
+       used \<leftarrow> return \<lparr>r_time = r_time (hd (sc_refills sc)) + period, r_amount = usage'\<rparr>;
+       update_refill_hd sc_ptr (r_time_update (\<lambda>t. t + usage') o (r_amount_update (\<lambda>m. m - usage')));
+       full \<leftarrow> return (size (sc_refills sc) = sc_refill_max sc);
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply spec/abstract/SchedContext_A.thy:315]: Yes, that’s right. The same for removing the line of `refills <- ...`. Both are accessing parts of `sc` when we need to get the whole of `sc` anyway.

File: spec/haskell/src/SEL4/Object/TCB.lhs (hunk 7 above)
[the remark this answers is not in the document]
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/TCB.lhs:1011]: We don't intend to run the Haskell code any more, we're only really using it as "definitely executable" notation. So if it's translated as nat, it's fine to leave out the Haskell check for the negative case.

I was wondering if there is any built-in Haskell library function for this that we should use instead, though. It sounds like a function that should exist.

File: spec/haskell/src/SEL4/Object/TCB.lhs (hunk 8 above)
[the remark this answers is not in the document]
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/TCB.lhs:1007]: Yes, `ls` or `xs` would be the canonical names both in Haskell and Isabelle

File: proof/refine/ARM/SchedContextInv_R.thy (hunk 3 above)
Comment (mktnk3) [reply proof/refine/ARM/SchedContextInv_R.thy:415]: I suppose it depends and optional. What I see quite often in Refine are situations where `sc_at’` is already available and, `!ko. ko_at` ko p s --> P ko` in postcondition is annoying in some wp proof for a setter, and it is possible to work around it by rewriting the postcondition to use a projection in place of `ko`. A getter wp rule in the projection style like here will let us skip such rewriting steps.

File: spec/haskell/src/SEL4/Object/TCB.lhs (hunk 7 above)
[the remark this answers is not in the document]
Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/TCB.lhs:1011]: > I was wondering if there is any built-in Haskell library function for this that we should use instead, though. It sounds like a function that should exist.

Sounds likely. I will have a look. `updateAt` is a (copy-paste) modification of `replaceAt`, which has been in MCS for a while, so there may well exist something for both.

File: proof/refine/ARM/SchedContextInv_R.thy (hunk 3 above)
Comment (lsf37) [reply proof/refine/ARM/SchedContextInv_R.thy:415]: We could probably make a lifting rule that takes a `ko_at'` precondition and turns it into a `typ_at'` + `the` precondition. This could then be used manually when we know it's safe.

(Not necessarily for this PR, though, happy for this rule to get merged separately)

File: spec/haskell/src/SEL4/Object/TCB.lhs (hunk 7 above)
[the remark this answers is not in the document]
Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/TCB.lhs:1011]: I don’t see anything that does in-place update via indexing. On a separate note, I guess we don’t need to define both `replaceAt` and `updateAt`. We can define the first with the latter.

File: proof/refine/ARM/SchedContextInv_R.thy (hunk 3 above)
Comment (mktnk3) [reply proof/refine/ARM/SchedContextInv_R.thy:415]: So, that is preferring `koTypeOf` over `projectKO_opt`? Both require the alignment conditions and I suppose that is necessary anyway.

Comment (lsf37) [reply proof/refine/ARM/SchedContextInv_R.thy:415]: Either one could work as lifting rule. IIRC `obj_at' True` and `typ_at'` should be equivalent for the right type.

Comment (mktnk3) [reply proof/refine/ARM/SchedContextInv_R.thy:415]: ok, I see, it can be `sc_at’` as what we have here. So, what you are suggesting is to write a lifting rule that essentially converts the existing wp rules with `ko_at’` into the projection style here, is this correct? That would be nicely generic and useful.

Comment (lsf37) [reply proof/refine/ARM/SchedContextInv_R.thy:415]: Yes, that's what I meant. I'm not entirely sure wether it's possible to do one generic lifting rule, because it's hard to generically talk about types, i.e. it's possible that you have simplify away preconditions once it is instantiated. But it'd be worth looking into at some point.

Comment (mktnk3) [reply proof/refine/ARM/SchedContextInv_R.thy:415]: The two preconditions are equivalent:
```
lemma forall_ko_at'_equiv_obj_at'_projection:
  "(λs. ∀ko::'a::pspace_storable. ko_at' ko p s ⟶ P ko s) =
        (λs. obj_at' (λ_::'a::pspace_storable. True) p s ⟶ P (the ((ksPSpace s |> projectKO_opt) p)) s)"
  by (fastforce simp: obj_at'_def projectKOs opt_map_red)
```
Probably it is quite ok to go back and forth between the two versions. Simply instantiating `'a` with `sched_context` will give `sc_at'` and `scs_of'`, for instance.

File: proof/refine/ARM/SchedContextInv_R.thy [hunk 11]
```diff
@@ -368,174 +368,95 @@ lemma invoke_sched_context_corres:
...
   apply (corressimp corres: get_sc_corres
                       simp: sc_relation_def)
   done
 
+lemma valid_obj'_scPeriod_update[simp]:
+  "valid_obj' (KOSchedContext (scPeriod_update (\<lambda>_. period) sc')) = valid_obj' (KOSchedContext sc')"
+  by (fastforce simp: valid_obj'_def valid_sched_context'_def valid_sched_context_size'_def objBits_simps)
+
+(* it would be good to rewrite all getting wp rules in this form *)
+lemma getSchedContext_wp':
```
Comment (mktnk3) [inline proof/refine/ARM/SchedContextInv_R.thy:388]: This is now a duplicate, I should remove (now generated from the `simple_ko’` locale in KHeap_R).

File: spec/haskell/src/SEL4/Object/TCB.lhs (hunk 7 above)
[the remark this answers is not in the document]
Comment (corlewis) [reply spec/haskell/src/SEL4/Object/TCB.lhs]: Yeah, I had a look at the time, and the only thing that I found was a different Haskell project that implemented a similar function. Nothing built-in that I could see.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 5 above)
Comment (corlewis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:212]: I think that you might have accidentally added this back in when changing `replaceAt` to `updateAt`.

File: spec/haskell/src/SEL4/Object/TCB.lhs (hunk 7 above)
[the remark this answers is not in the document]
Comment (corlewis) [reply spec/haskell/src/SEL4/Object/TCB.lhs]: > I don’t see anything that does in-place update via indexing in Data.List. On a separate note, I guess we don’t need to define both `replaceAt` and `updateAt`. We can define the first with the latter.

Hmm, I could see a use for `replaceAt i ls v = updateAt i ls (\x -> v)`, or maybe an abbreviation like that on the Isabelle side, but probably not worth it now that you've already done the work of removing it.

File: proof/refine/ARM/Finalise_R.thy [hunk 12]
```diff
@@ -3473,7 +3473,7 @@ crunches schedContextCompleteYieldTo, unbindNotification, unbindMaybeNotificatio
 lemma schedContextZeroRefillMax_unlive[wp]:
   "schedContextZeroRefillMax scPtr \<lbrace>\<lambda>s. P (ko_wp_at' (Not \<circ> live') p s)\<rbrace>"
   unfolding schedContextZeroRefillMax_def
-  apply (wpsimp wp: set_sc'.set_wp)
+  apply (wpsimp wp: set_sc'.set_wp simp: updateSchedContext_def)
```
Comment (corlewis) [inline proof/refine/ARM/Finalise_R.thy:3476]: Not a big deal, but I'm a bit surprised to see `updateSchedContext` being unfolded all over the place.

Was this to minimise updates to existing proofs? If not, it might be a sign that we should prove more lemmas about it.

File: spec/haskell/src/SEL4/Object/TCB.lhs (hunk 7 above)
[the remark this answers is not in the document]
Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/TCB.lhs]: ah, true, it is easy to revive `replaceAt` as an abbreviation in isabelle, I guess.

File: proof/refine/ARM/Schedule_R.thy [hunk 13]
```diff
@@ -3453,19 +3443,18 @@ lemma readRefillReady_no_ofail[wp]:
...
-              (refillReady sc_ptr)"
-  apply (rule corres_cross[where Q' = "sc_at' sc_ptr", OF sc_at'_cross_rel])
-   apply (fastforce dest: valid_objs_valid_sched_context_size
-                    simp: vs_all_heap_simps obj_at_def is_sc_obj_def)
+  "corres (=)
+      (sc_at sc_ptr and
+        (\<lambda>s. ((\<lambda>sc. sc_refills sc \<noteq> [] \<and> 0 < sc_refill_max sc) |< scs_of2 s) sc_ptr))
+      (sc_at' sc_ptr and valid_refills' sc_ptr)
+         (get_sc_refill_ready sc_ptr)
+          (refillReady sc_ptr)"
```
Comment (corlewis) [inline proof/refine/ARM/Schedule_R.thy:3451]:
```suggestion
      (sc_at sc_ptr and
        (\<lambda>s. ((\<lambda>sc. sc_refills sc \<noteq> [] \<and> 0 < sc_refill_max sc) |< scs_of2 s) sc_ptr))
      (sc_at' sc_ptr and valid_refills' sc_ptr)
      (get_sc_refill_ready sc_ptr)
      (refillReady sc_ptr)"
```

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 5 above)
Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:212]: oops, you are right, I will remove it.

File: proof/refine/ARM/SchedContextInv_R.thy [hunk 14]
```diff
@@ -368,174 +368,95 @@ lemma invoke_sched_context_corres:
...
+  "corres (=) (sc_at sc_ptr) (sc_at' sc_ptr)
               (is_round_robin sc_ptr) (isRoundRobin sc_ptr)"
-  apply (rule corres_cross[where Q' = "sc_at' sc_ptr", OF sc_at'_cross_rel], fastforce)
   apply (clarsimp simp: is_round_robin_def isRoundRobin_def)
   apply (corressimp corres: get_sc_corres
                       simp: sc_relation_def)
   done
 
+lemma valid_obj'_scPeriod_update[simp]:
+  "valid_obj' (KOSchedContext (scPeriod_update (\<lambda>_. period) sc')) = valid_obj' (KOSchedContext sc')"
```
Comment (corlewis) [inline proof/refine/ARM/SchedContextInv_R.thy:384]: This could be moved to `InvariantUpdates_H.thy`

File: proof/refine/ARM/SchedContextInv_R.thy (hunk 11 above)
Comment (corlewis) [reply proof/refine/ARM/SchedContextInv_R.thy:388]: Are you planning to remove it from this PR, or in a future commit?

**Review by corlewis — APPROVED** [review]
Awesome work!

File: proof/invariant-abstract/SchedContextInv_AI.thy [hunk 15]
```diff
@@ -1641,17 +1641,17 @@ abbreviation active_sc_at :: "obj_ref \<Rightarrow> 'z::state_ext state \<Righta
...
+  "set_refills sc_ptr refills \<lbrace>\<lambda>s. P (active_sc_at sc_ptr s)\<rbrace>"
   apply (clarsimp simp: set_refills_def)
   apply (wpsimp wp: update_sched_context_wp)
   apply (clarsimp simp: active_sc_at_def)
   done
 
 lemma refill_unblock_check_active_sc_at[wp]:
   "refill_unblock_check sc_ptr \<lbrace>\<lambda>s. Q (active_sc_at sc_ptr s)\<rbrace>"
-  apply (clarsimp simp: refill_unblock_check_defs)
+  apply (clarsimp simp: refill_unblock_check_defs simp del: update_refill_hd_def)
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/invariant-abstract/SchedContextInv_AI.thy:1652]: unfortunately, yes. `refill_unblock_check_defs` is a bundle of mixed things and contains `update_refill_hd_def` which I don’t want here.

File: proof/refine/ARM/Finalise_R.thy (hunk 12 above)
Comment (mktnk3) [reply proof/refine/ARM/Finalise_R.thy:3476]: For Finalise_R, it is mostly to save effort, as you say.

In Schedule_R and SchedContextInv_R, the proofs needed to be properly updated in most situations. Whether we should prove more lemmas or not is hard to say for sure, but I think it is ok to move forward and prove things on-demand as we proceed.

File: proof/refine/ARM/SchedContextInv_R.thy (hunk 11 above)
Comment (mktnk3) [reply proof/refine/ARM/SchedContextInv_R.thy]: removed
